US04791123
A 20% solution of diisobutylaluminium hydride in n-hexane (53.4 ml) was added, dropwise, to ethyl α-trifluoromethylphenylacetate (2.9 g; 12.5 mmol) (T. S. Everett, S. T. Purrington, C. L. Baumgardner, J. Org. Chem. 49, 3702 (1984)) in absolute tetrahydrofuran (50 ml) at about 60° C. The mixture was then allowed to rise to room temperature and stirred for an hour at this temperature. Then at a temperature of 5°-10° C., methanol (10.5 ml) followed by 10% aqueous potassium hydroxide (5.3 ml) was added, dropwise. After 1.5 hours, the mixture was filtered and the filtrate dried over sodium sulphate which was washed with ethyl acetate and the organic phase concentrated. There was obtained 2-phenyl-2-trifluoromethylethanol (2.07 g=87.1 of theory).

reactant | diisobutylaluminium hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | ethyl α-trifluoromethylphenylacetate | 12.5 mmol, 2.9 g | FC(C(C(=O)OCC)C1=CC=CC=C1)(F)F | C11H11F3O2
reactant | methanol | 10.5 ml | CO | CH4O
reactant | potassium hydroxide | 5.3 ml | [OH-].[K+]
solvent | n-hexane | 53.4 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-phenyl-2-trifluoromethylethanol | 2.07 g | C1(=CC=CC=C1)C(CO)C(F)(F)F | C9H9F3O
